US08975400B2
2-((5-chloropyridin-3-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (5.52 mg, 0.230 mmol) in THF (5 mL), 2-((5-chloropyridin-3-yl)oxy)-5-(hydroxymethyl)ben-zonitrile (30 mg, 0.115 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidi-n-5(1H)-one (21.4 mg, 0.115 mmol).

reactant | sodium hydride | 0.230 mmol, 5.52 mg | [H-].[Na+]
reactant | 2-((5-chloropyridin-3-yl)oxy)-5-(hydroxymethyl)ben-zonitrile | 0.115 mmol, 30 mg | ClC=1C=C(C=NC1)OC1=C(C#N)C=C(C=C1)CO | C13H9ClN2O2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidi-n-5(1H)-one | 0.115 mmol, 21.4 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-((5-chloropyridin-3-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | ClC=1C=C(C=NC1)OC1=C(C#N)C=C(C=C1)COC=1C=C2N(C(N1)=O)CCN2C | C20H16ClN5O3
